US04461896
(±)-1-(2-Mercapto-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid
(±)-1-(2-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid (4.5 g), concentrated ammonium hydroxide (8 ml) and water (16 ml) were combined and stirred at room temperature under nitrogen for three hours. The benzamide was filtered and the filtrate diluted with water (25 ml). The reaction mixture was then extracted with ethyl acetate and acidified with concentrated hydrochloric acid. The product was extracted with chloroform and the chloroform extracts dried over sodium sulfate and activated charcoal, and concentrated in vacuo. The residue, (±)-1-(2-mercapto-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid, was triturated with carbon tetrachloride (20 ml); yield 3.2 g, m.p. 141°-143°.

reactant | (±)-1-(2-Benzoylthio-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic acid | 4.5 g | C(C1=CC=CC=C1)(=O)SC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)C | C20H19NO4S
reactant | ammonium hydroxide | 8 ml | [OH-].[NH4+]
solvent | water | 16 ml | O | H2O
product | (±)-1-(2-Mercapto-1-oxopropyl)-1,2,3,4-tetrahydro-2-quinolinecarboxylic Acid | SC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)C | C13H15NO3S
